US06787543B2
Sodium triacetoxyborohydride (163 mg) was added to a mixture of bis(acetic acid) salt of (7R,8aS)-4-benzhydryl-7-[(tert-butyldimethylsilyl)oxy]octahydropyrrolo[1,2-a]pyrazine (0.38 g) and 2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzaldehyde (210 mg) in dichloromethane, and the whole was stirred for 3 hours at room temperature. The mixture was washed with aqueous sodium hydrogen carbonate, dried over magnesium sulfate and concentrated under reduced pressure. The syrup was purified by column chromatography on silica gel using a mixed solvent of hexane and ethyl acetate (4:1). The later eluting fractions were collected and evaporated under reduced pressure to give colorless oil of (4R,7R,8aS)-4-benzhydryl-7-[(tert-butyldimethylsilyl)oxy]-2-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]-octahydropyrrolo[1,2-a]pyrazine (0.18 g).

reactant | Sodium triacetoxyborohydride | 163 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (7R,8aS)-4-benzhydryl-7-[(tert-butyldimethylsilyl)oxy]octahydropyrrolo[1,2-a]pyrazine | 0.38 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNC[C@H]2N1C[C@@H](C2)O[Si](C)(C)C(C)(C)C | C26H38N2OSi
reactant | 2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzaldehyde | 210 mg | COC1=C(C=O)C=C(C=C1)N1N=NN=C1C(F)(F)F | C10H7F3N4O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (4R,7R,8aS)-4-benzhydryl-7-[(tert-butyldimethylsilyl)oxy]-2-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]-octahydropyrrolo[1,2-a]pyrazine | 0.18 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CN(C[C@H]2N1C[C@@H](C2)O[Si](C)(C)C(C)(C)C)CC2=C(C=CC(=C2)N2N=NN=C2C(F)(F)F)OC | C36H45F3N6O2Si
